US07279481B2
1-(3-Acetylphenyl)-2-azetidinone (D10)
The title compound was prepared in 97% yield according to the general procedure for the preparation of the amides, ureas and carbamates (Method A) starting from 1-(3-bromophenyl)ethanone and 2-azetidinone.

reactant | 1-(3-bromophenyl)ethanone | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
reactant | 2-azetidinone | N1C(CC1)=O | C3H5NO
product | 1-(3-Acetylphenyl)-2-azetidinone | 97% yield | C(C)(=O)C=1C=C(C=CC1)N1C(CC1)=O | C11H11NO2
